US07842685B2
A solution of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(3,3-difluoro-cyclobutyl)vinyl)thiazolo[5,4-b]pyridine (299.1 mg, 0.692 mmol) in THF (13.33 mL) was added a solution of trimethylsulfoxonium iodide (913 mg, 4.15 mmol) and potassium 2-methylpropan-2-olate (466 mg, 4.15 mmol) in DMSO (8.0 mL) under argon, and the resulting solution was stirred at 60° C. for 2.5 h. The reaction mixture was then cooled to 25° C., THF was removed in vacuo, and the residual mixture was diluted with DCM (200 mL). The resulting solution was sequentially washed with sat. aq. NH4Cl and brine). The combined aqueous layers were extracted with DCM, and the combined organic layers were then dried over sodium sulfate, filtered, and concentrated in vacuo. Chromatographic purification of the residue (silica gel, 0-70% EtOAc/hexanes) furnished 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(3,3-difluoro-cyclobutyl)cyclopropyl)thiazolo[5,4-b]pyridine as a light yellow solid. MS (ESI) m/z: Calculated: 446.1; Observed: 447.1 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(3,3-difluoro-cyclobutyl)vinyl)thiazolo[5,4-b]pyridine | 0.692 mmol, 299.1 mg | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(=C)C1CC(C1)(F)F)F | C22H19F3N2O2S
reactant | trimethylsulfoxonium iodide | 4.15 mmol, 913 mg | [I-].C[S+](=O)(C)C
reactant | potassium 2-methylpropan-2-olate | 4.15 mmol, 466 mg | CC(C)(C)[O-].[K+]
solvent | THF | 13.33 mL | C1CCOC1 | C4H8O
solvent | DMSO | 8.0 mL | CS(=O)C | C2H6OS
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(3,3-difluoro-cyclobutyl)cyclopropyl)thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1CC(C1)(F)F)F | C23H21F3N2O2S
